US04898949
2(1-Methyltetrazol-5-yl)-1,1-diphenylethanol
A solution of 1,5-dimethyltetrazole (20 g; 0.204 mole) in dry THF (200 mL) was cooled to -78° C. and treated with n-butyllithium (91 mL of 2.5 molar solution in hexane; 0.227 mole) and the mixture stirred at -78° C. for 30 minutes. Benzophenone (31.1 g; 0.171 mole) was added and the mixture stirred at -78° C. for 30 minutes and allowed to warm up to 23° C. and stirred for 15 hours. The mixture was quenched with 2N HCl (100 mL) and extracted with EtOAc (3×150 mL). The combined organic layers were dried (MgSO4) and evaporated. The residue was crystallized from EtOAc-Hexane to afford the title compound as a white solid (10.5 g; 22%); m.p.=175°-176° C. (crystallized from EtOAc-hexane). MS (CI): m/e=281 for (M+H)+ ;

reactant | 1,5-dimethyltetrazole | 0.204 mole, 20 g | CN1N=NN=C1C | C3H6N4
reactant | n-butyllithium | 0.227 mole, 2.5 molar, 91 mL | C(CCC)[Li]
reactant | Benzophenone | 0.171 mole, 31.1 g | C(C1=CC=CC=C1)(=O)C1=CC=CC=C1 | C13H10O
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | 2(1-Methyltetrazol-5-yl)-1,1-diphenylethanol | 10.5 g, 22% | CN1N=NN=C1CC(O)(C1=CC=CC=C1)C1=CC=CC=C1 | C16H16N4O
